US07842713B2
2-(Difluoromethyl)-N-(5-methylpyridin-2-yl)-4-[4-(methylsulfonyl)-phenoxy]-1-benzofuran-6-carboxamide
2-Amino-5-methylpyridine (264 mg, 2.44 mmol) was dissolved in DCE (10 mL) at 0° C., then Al(CH3)2Cl (2.44 mL, 1M in hexanes) was added drop wise. After the addition, the ice-bath was removed, and the mixture was stirred for 30 minutes at room temperature. Ethyl 2-(difluoromethyl)-4-[4-(methylsulfonyl)phenoxy]-1-benzofuran-6-carboxylate (100 mg, 0.244 mmol) was added, and the stirring was continued for 14 h. The reaction was quenched with potassium sodium tartrate tetrahydrate (20% w/w) cautiously. The product was extracted with CHCl3, washed with brine and dried over MgSO4. The product was purified by reverse phase HPLC to give the title compound (92 mg, 80%) as a white solid. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 2.31 (s, 3 H) 3.08 (s, 3 H) 6.75 (t, J=53.94 Hz, 1 H) 6.98 (s, 1 H) 7.12-7.20 (m, 2 H) 7.51 (d, J=1.01 Hz, 1 H) 7.58 (dd, J=8.46, 2.15 Hz, 1 H) 7.91-7.96 (m, 2 H) 7.97 (s, 1 H) 8.11 (d, J=2.15 Hz, 1 H) 8.23 (d, J=8.46 Hz, 1 H) 8.54 (s, 1 H). LCMS m/z 473.0 (M+H)+.

reactant | 2-Amino-5-methylpyridine | 2.44 mmol, 264 mg | NC1=NC=C(C=C1)C | C6H8N2
reactant | Al(CH3)2Cl | 1M, 2.44 mL | [Al](C)(C)Cl
reactant | Ethyl 2-(difluoromethyl)-4-[4-(methylsulfonyl)phenoxy]-1-benzofuran-6-carboxylate | 0.244 mmol, 100 mg | FC(C=1OC2=C(C1)C(=CC(=C2)C(=O)OCC)OC2=CC=C(C=C2)S(=O)(=O)C)F | C19H16F2O6S
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | 2-(Difluoromethyl)-N-(5-methylpyridin-2-yl)-4-[4-(methylsulfonyl)-phenoxy]-1-benzofuran-6-carboxamide | 92 mg, 80% | FC(C=1OC2=C(C1)C(=CC(=C2)C(=O)NC2=NC=C(C=C2)C)OC2=CC=C(C=C2)S(=O)(=O)C)F | C23H18F2N2O5S
